US07666871B2
Add 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethanol (0.200 g, 709 mmol) [which is obtained by the method of D. Brooks, J. Med. Chem., 2001, 44, 2061-2064 or see WO 0116120], Pd(Ph3)4 (0.036 g, 0.031 mmol), 3-acetylphenylboronic acid (0.174 g, 1.06 mmol), 2N Na2CO3 (1.8 mL), and 1,4-dioxane (1.5 mL) to a microwave vessel. Subject the reaction mixture to microwave irradiation at 30 W, 90° C. for 30-45 minutes. Concentrate and purify on silica gel eluting with 10% 2N NH3 in methanol/dichloromethane to give 1-{4′-[4-(2-hydroxy-ethyl)-5-methyl-oxazol-2-yl]-biphenyl-3-yl}-ethanone (0.188 g, 83%).

reactant | 2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethanol | 709 mmol, 0.200 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
reactant | 3-acetylphenylboronic acid | 1.06 mmol, 0.174 g | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
reactant | Na2CO3 | 2N, 1.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 1-{4′-[4-(2-hydroxy-ethyl)-5-methyl-oxazol-2-yl]-biphenyl-3-yl}-ethanone | 0.188 g, 83% | OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC(=CC=C1)C(C)=O | C20H19NO3
